Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
left inguinal hernia
 
Major Surgical or Invasive Procedure:
___- laparoscopic inguinal hernia repair

 
History of Present Illness:
Mr. ___ is an ___ year old man with history of open left 
inguinal hernia repair ___ years ago at ___ with increasing 
awareness of left inguinal discomfort and swelling. He believes 
this started a few months ago after an episode of dry heaving 
related to GI illness.  He presents now for scheduled 
laparoscopic repair.
 
Past Medical History:
- Diverticulosis w h/o diverticulitis  
- Hyperthyroidism  
- Migraines  
- Open Angle Glaucoma  
- Macular Degeneration  
- Eczematous Dermatitis  
- Actinic Keratosis  
- Seborrheic Keratosis  
- Allergic Rhinitis  
- Cervical disc degeneration  
- S/P Rotator cuff repair  
- S/P hernia repair  
- s/p appendectomy
 
Social History:
___
Family History:
No history of sudden cardiac death or malignancy.
 
Physical Exam:
Discharge Physical Exam
VS: 99.0  80  107/52  19  94% ra
Gen- alert and oriented x3 NAD
CV- RRR
Pulm- CTAB
Abd- soft, appropriately TTP, incisions c/d/i, minimal 
ecchymoses around inferior incision
Ext- WWP
 
Brief Hospital Course:
Mr. ___ is an ___ man who presented for a scheduled 
laparoscopic repair of a recurrent left inguinal hernia. For 
full details please see the separately dictated operative 
report. He was brought to ___ in stable condition; however 
given his known prostatic enlargement and high risk of 
postoperative urinary retention, a foley was placed 
intraoperatively and he was admitted overnight. The foley was 
removed in the morning of POD 1; he did void but reported some 
feeling of fullness and incomplete void. A post void residual 
bladder scan showed 500cc and the foley was replaced. He 
otherwise advanced appropriately, and on POD ___ontrolled on oral medications and he was tolerating a regular 
diet. On POD 2 he was ambulating without assistance; the foley 
was again removed and he did void. His post void residual was 
400cc. He states that he feels at his baseline; that this is his 
usual manner of voiding (several small voids over the course of 
the morning). He has no suprapubic pressure or pain. He is 
discharged home on POD 2; he is voiding, and he is encouraged to 
call or return to the ED if he develops suprapubic pressure or 
has difficulty voiding. He is also given the number for the 
___ clinic to follow up with them after discharge. He is 
otherwise doing well, ambulating, pain well controlled with 
tylenol, and tolerating a regular diet.
 
Medications on Admission:
___: amitriptyline 50'', brimonidine eye drops, flunisolide, 
metoprolol 24', omeprazole 20', lyrica 300', travoprost eye 
drops
 
Discharge Medications:
1. Amitriptyline 50 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
take while taking dilaudid 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*20 Capsule Refills:*0
3. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth q4-6h 
Disp #*25 Tablet Refills:*0
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Pregabalin 75 mg PO Q6H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
inguinal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted overnight after a laparoscopic inguinal hernia 
repair. You had a foley catheter placed to drain your bladder. 
This has been removed and you are voiding. Your pain is 
controlled with pills and you are eating a regular diet. You are 
ready to go home. It was a pleasure taking care of you. Please 
restart all of your home medications, and remember not to lift 
anything over 10 lb for the next 4 weeks.

You have have small strips of tape (steri-strips) under the 
dressing that will stay on until they fall off on their own.
 
Followup Instructions:
___